US07557127B2
A mixture of (2E)-3-(6-{[(3R)-1-(tert-butoxycarbonyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid (450 mg), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (174 mg), HOBt (191 mg) and EDCI (220 mg) in DMF (20 ml) was stirred at ambient temperature for 15 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (95:5). The eluted fractions containing the desired product were collected and evaporated in vacuo to give tert-butyl (3R)-3-[(5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)amino]-1-pyrrolidinecarboxylate (450 mg).

reactant | (2E)-3-(6-{[(3R)-1-(tert-butoxycarbonyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid | 450 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)O | C17H23N3O4
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 174 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBt | 191 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 220 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | AcOEt-H2O | C(=O)(C)OCC.O
product | tert-butyl (3R)-3-[(5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)amino]-1-pyrrolidinecarboxylate | 450 mg | O=C(/C=C/C=1C=CC(=NC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)NOC1OCCCC1 | C22H32N4O5
